US05387685
2-[6-(3,4-Dimethoxyphenyl)-6-[(4-methylphenyl)thio]hexyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline
The procedure of Example 39 is repeated using 2.12 g of 4-[6-Bromo-1-[(4-methylphenyl)thio]hexyl]-1,2-dimethoxybenzene and 2.3 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This affords 1.6 g of the desired product as a light yellow oil.

reactant | 4-[6-Bromo-1-[(4-methylphenyl)thio]hexyl]-1,2-dimethoxybenzene | 2.12 g | BrCCCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C21H27BrO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.3 g | Cl.COC=1C=C2CCNCC2=CC1OC
product | 2-[6-(3,4-Dimethoxyphenyl)-6-[(4-methylphenyl)thio]hexyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 1.6 g | COC=1C=C(C=CC1OC)C(CCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C32H41NO4S
